US07566727B2
5-Bromo-2-bromomethyl-furan-3-carboxylic acid methyl ester
The title compound was prepared as described by Khatuya (Tetrahedron Letters (2001), 42(14), 2643-2644.). 2-Methyl-furan-3-carboxylic acid methyl ester (5.0 g, 35.7 mmol) was dissolved in N,N′-dimethylformamide (10 mL) and cooled to 0° C. N-bromosuccinimide (NBS) (15.88 g, 89.2 mmol) was added in portions. Approximately 6.5 grams of NBS were added over 45 minutes at which point it was determined by HPLC that complete formation of 5-bromo-2-methyl-furan-3-carboxylic acid methyl ester had occurred. The reaction was allowed to warm to room temperature and the remainder of the NBS was added over 1.5 hours. The reaction mixture was partitioned between diethyl ether and water. The aqueous layer was extracted with ether and the combined organic layers were dried over sodium sulfate, filtered, and evaporated under reduced pressure. The N,N′-dimethylformamide was removed under high vacuum and the material was absorbed onto silica gel and passed through a column of silica gel using 5% ethyl acetate in hexanes as the eluent. The title compound was obtained as a very pale greenish, waxy solid (4.86 g, 46%). 1H NMR (300.132 MHz, DMSO) δ 6.93 (s, 1H), 4.93 (s, 2H), 3.82 (s, 3H).

reactant | 2-Methyl-furan-3-carboxylic acid methyl ester | 35.7 mmol, 5.0 g | COC(=O)C1=C(OC=C1)C | C7H8O3
reactant | N-bromosuccinimide | 89.2 mmol, 15.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 6.5 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-bromo-2-methyl-furan-3-carboxylic acid methyl ester | COC(=O)C1=C(OC(=C1)Br)C | C7H7BrO3
solvent | N,N′-dimethylformamide | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-bromomethyl-furan-3-carboxylic acid methyl ester | COC(=O)C1=C(OC(=C1)Br)CBr | C7H6Br2O3
